US05688815
12.37 g of 3-benzyloxy-1-(2-hydroxy-ethyl)-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one are dissolved in 200 ml of methanol and hydrogenated at room temperature over 1.2 g of palladium on carbon (5%) until 1 mol of H2 per mol of starting material has been taken up. The catalyst is removed by filtration and the filtrate is concentrated to dryness by evaporation using a rotary evaporator. Recrystallisation from methanol yields 3-hydroxy-1-(2-hydroxy-ethyl)-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one in the form of colourless crystals. M.p.: 198°-200° C.

reactant | 3-benzyloxy-1-(2-hydroxy-ethyl)-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one | 12.37 g | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCO)C(C1=CC=CC=C1)O | C21H21NO4
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium on carbon | 1.2 g | [Pd] | Pd
product | 3-hydroxy-1-(2-hydroxy-ethyl)-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one | OC1=C(N(C=CC1=O)CCO)C(C1=CC=CC=C1)O | C14H15NO4
